US05401756
b) Preparation of 7-(4-chlorophenoxy)-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone
A mixture of 100 mg of 7-(4-chlorophenoxy)isocoumarin and 377 mg of 3-aminomethylpyridine was heated at 180° C. without solvent under stirring for 5 hours. After finishing the reaction, the mixture was chromatographed on a column of silica gel, eluting with ethyl acetate to give 97 mg of the titled compound.

reactant | 7-(4-chlorophenoxy)isocoumarin | 100 mg | ClC1=CC=C(OC2=CC=C3C=COC(=O)C3=C2)C=C1 | C15H9ClO3
reactant | 3-aminomethylpyridine | 377 mg | NCC=1C=NC=CC1 | C6H8N2
product | 7-(4-chlorophenoxy)-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone | 97 mg | ClC1=CC=C(OC2=CC=C3C=CN(C(C3=C2)=O)CC=2C=NC=CC2)C=C1 | C21H15ClN2O2
